US06762320B2
a) 4-[2-(4-Methoxy-phenyl)-vinyl]-phenylamine
Prepared in analogy to example 56b) from (4-nitro-benzyl)-phosphonic acid diethyl ester and 4-methoxy-benzaldehyde. Yellow solid. Yield=69%. MS: m/e=225.9 (M+).

reactant | (4-nitro-benzyl)-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)CC1=CC=C(C=C1)[N+](=O)[O-] | C11H16NO5P
reactant | 4-methoxy-benzaldehyde | COC1=CC=C(C=O)C=C1 | C8H8O2
product | 4-[2-(4-Methoxy-phenyl)-vinyl]-phenylamine | Yield=69% | COC1=CC=C(C=C1)C=CC1=CC=C(C=C1)N | C15H15NO
